US08487108B2
To a solution of (S)-tert-butyl 4-((S)-2-((tert-butyldimethylsilyloxy)methyl)-4-(methylsulfonyloxy)butyl)-2,2-dimethyloxazolidine-3-carboxylate (6.2 g) in 200 mL of THF was added TEAF. The reaction mixture was stirred for 12 h under reflux. The mixture was diluted with EA, washed with water back extracted EA. The combined organic layer was washed with brine, filtered, and concentrated. The crude product was purified by flash column to give the pure product (S)-tert-butyl 2,2-dimethyl-4-(((S)-tetrahydrofuran-3-yl)methyl)oxazolidine-3-carboxylate (2.4 g, 67%).

reactant | (S)-tert-butyl 4-((S)-2-((tert-butyldimethylsilyloxy)methyl)-4-(methylsulfonyloxy)butyl)-2,2-dimethyloxazolidine-3-carboxylate | 6.2 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CCOS(=O)(=O)C | C22H45NO7SSi
reactant | TEAF | CCN(CC)CC.C(=O)O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | (S)-tert-butyl 2,2-dimethyl-4-(((S)-tetrahydrofuran-3-yl)methyl)oxazolidine-3-carboxylate | 2.4 g, 67% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1COCC1)C | C15H27NO4
